US05691369
A near solution of 9.46 g (0.050 mole) of 1-[(phenylmethylene)amino]-2-imidazolidinone in 125 ml of dimethylformamide is treated portionwise with 2.0 g (0.050 mole) of NaH (60% dispersion in mineral oil) with the temperature rising to 30° C. The reaction is stirred at ambient temperature for 15 minutes with a solid forming. A 100 ml portion of dimethylformamide is added, to aid in stirring, and the mixture is stirred at 80° to 90° C. for 30 minutes. The mixture is cooled to ambient temperature and treated all at once with 12.2 g (0.100 mole) of dimethylaminopropyl chloride (prepared as described in Part I above). The resulting mixture is heated at 80° to 90° C. for 3 hours with near dissolution. The solvent is removed in vacuo. The residual semi-solid is dissolved in H2O (150 ml), and extracted with ethyl acetate (2×200 ml). The combined extracts are dried over MgSO4 and the solvent is removed in vacuo. The residual solid is washed with ether and air-dried to yield 4.8 g of 3-[3-(dimethylamino)propyl]-1-[(phenylmethylene)amino]-2-imidazolidinone.

reactant | 1-[(phenylmethylene)amino]-2-imidazolidinone | 0.050 mole, 9.46 g | C1(=CC=CC=C1)C=NN1C(NCC1)=O | C10H11N3O
reactant | NaH | 0.050 mole, 2.0 g | [H-].[Na+]
reactant | dimethylaminopropyl chloride | 0.100 mole, 12.2 g | CN(C)CCCCl | C5H12ClN
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 3-[3-(dimethylamino)propyl]-1-[(phenylmethylene)amino]-2-imidazolidinone | 4.8 g | CN(CCCN1C(N(CC1)N=CC1=CC=CC=C1)=O)C | C15H22N4O
